US06538015B1
A solution containing 45 mg of 5-(3,5-dichlorophenylthio)-1-isopropyl-4-[(4-pyridyl)methyl]-1H-pyrazole-3-methanol in 4 ml of anhydrous dichloromethane under nitrogen at room temperature was treated with 0.017 ml of triethylamine and 0,007 ml of methyl isocyanate. The mixture was stirred at room temperature for 1 h. The mixture was partitioned between ethyl acetate and water then extracted with dichloromethane three times. The combined extracts were washed with brine then dried over anhydrous magnesium sulphate, filtered and evaporated. The residue was purified by flash chromatography on silica gel using methanol/dichloromethane (0:1 to 1:49) for the elution to give 36 mg of methylcarbamic acid [5-(3,5-dichlorophenylthio)-1-isopropyl-4-[(4-pyridyl)methyl]-1H-pyrazol-3-yl]methyl ester as a yellow gum. Mass spectrum (ESI) m/z 465 [M+H]+. 1H NMR (DMSO) 1.30 (d, 6H), 2.55 (d, 3H), 3.90 (s, 2H), 5.05 (s, 2H), 6.77 (s, 2H), 7.05 (d, 2H), 7.12 (m, 1H), 7.37 (s, 1H), 8.30 (d, 2H).

reactant | 5-(3,5-dichlorophenylthio)-1-isopropyl-4-[(4-pyridyl)methyl]-1H-pyrazole-3-methanol | 45 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(C(=NN1C(C)C)CO)CC1=CC=NC=C1 | C19H19Cl2N3OS
reactant | triethylamine | 0.017 ml | C(C)N(CC)CC | C6H15N
reactant | methyl isocyanate | 0,007 ml | CN=C=O | C2H3NO
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | methylcarbamic acid [5-(3,5-dichlorophenylthio)-1-isopropyl-4-[(4-pyridyl)methyl]-1H-pyrazol-3-yl]methyl ester | 36 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(C(=NN1C(C)C)COC(NC)=O)CC1=CC=NC=C1 | C21H22Cl2N4O2S
